Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gastric cancer
 
Major Surgical or Invasive Procedure:
___: Laparoscopic resection of gastric mass and upper 
endoscopy.

 
History of Present Illness:
The patient is a ___ woman with a
history of Crohn's disease in the past as well as an esophageal
stricture who had a recent endoscopy for increasing upper
gastrointestinal symptoms.  This showed a mass in the stomach. 
Biopsies were done which showed the suspicion of intramucosal
carcinoma.  An endoscopic ultrasound was performed which showed 
a
3 cm mass.  This seem to involve only the mucosa however when
Endo mucosal resection was considered, the lesion was not able 
to
be lifted with a saline injection thus raising the suspicion for
deeper disease or scarring from multiple biopsies which had
previously been taken.  Regardless, the Endo mucosal resection
could not be completed.  She has had CT scan which shows no
evidence of metastatic disease and it is unclear from the scan
exactly where the lesion is though it is described as being in
the distal body of the stomach. Patient was evaluated by Dr. 
___ scheduled for elective gastric resection. 
 
Past Medical History:
Crohn's disease, anxiety 
 
Social History:
___
Family History:
two paternal cousins with cancer in their ___, although she does 
not recall which type or location
 
Physical Exam:
Prior To Discharge: 
VS: 98.9, 67, 110/72, 16, 98% RA
GEN: Pleasant with NAD
HEENT: NC/AC, PERRL, EOMI, no JVD, no scleral icterus
CV: RRR
PULM:; CTAB
ABD: Laparoscopic incisions open to air with steri strips and 
c/d/I. 
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 04:57AM BLOOD WBC-8.2 RBC-3.50* Hgb-11.3 Hct-35.6 
MCV-102* MCH-32.3* MCHC-31.7* RDW-13.2 RDWSD-49.5* Plt ___
___ 04:57AM BLOOD Glucose-87 UreaN-8 Creat-0.7 Na-140 K-3.9 
Cl-105 HCO3-25 AnGap-10
___ 04:57AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.7

Final pathology pending 
 
Brief Hospital Course:
The patient with newly diagnosed gastric mass was admitted to 
the General Surgical Service for elective resection. On ___, 
the patient underwent laparoscopic gastric wedge resection, 
which went well without complication (please see the Operative 
Note for details). After a brief, uneventful stay in the PACU, 
the patient arrived on the floor NPO with IV fluids, with Foley 
catheter, and  IV Dilaudid for pain control. The patient was 
hemodynamically stable.
On POD 1, NGT was removed and diet was advanced to clears, which 
progressively was advanced to regular diet on POD 2. Foley was 
discontinued on POD 1 and patient subsequently voided without 
problem. She was transitioned to oral oxycodone when tolerated 
PO. Prior to discharge, patient was switched to Dilaudid PO 
secondary to nausea caused by Oxycodone. 
At the time of discharge on POD 2, the patient was doing well, 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
Mirena IUD, lorazepam 0.5' PRN anxiety 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
do not exceed more then 3000 mg/day  
2.  Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 100 mg 1 ml by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*12 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID  
5. Lorazepam 0.5 mg PO daily prn 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastric adenocarcinoma (final pathology pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the surgery service at ___ for surgical 
resection of your gastric mass. You have done well in the post 
operative period and are now safe to return home to complete 
your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have 
any questions or concerns. During off hours: Call Operator at 
___ and ask to ___ Team.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 

 
Followup Instructions:
___